US07244730B2
(Step 8) 1-[3-(tert-Butyl)-4-methoxy-5-morpholinophenyl]-1-ethanone
After dissolving 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone (180 g) in dimethylformamide (800 ml), dibromoether (125 ml), potassium carbonate (225 g) and sodium iodide (12.2 g) were added and the mixture was stirred at 80° C. for 48 hours. The reaction mixture was cooled to room temperature, 3 l of ether was added and the mixture was washed 3 times with water. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (76 g) as yellow crystals.

reactant | 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone | 180 g | NC=1C=C(C=C(C1OC)C(C)(C)C)C(C)=O | C13H19NO2
reactant | potassium carbonate | 225 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 12.2 g | [I-].[Na+]
reactant | ether | 3 l | CCOCC | C4H10O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
solvent | dibromoether | 125 ml | BrOBr | Br2O
product | 1-[3-(tert-Butyl)-4-methoxy-5-morpholinophenyl]-1-ethanone | 76 g | C(C)(C)(C)C=1C=C(C=C(C1OC)N1CCOCC1)C(C)=O | C17H25NO3
